* AD734B SPICE Macro-model 4/92, Rev. B
* AAG / PMI
*
* This version of the AD734 multiplier model simulates the worst case
* parameters of the 'B' grade.  The worst case parameters used
* correspond to those in the data sheet.
*
* Revision History:
* Removed input signal current compensation: GX1,GY1,GZ1
* Added Isy vs. Vsy
*
* Copyright 1992 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*              X1
*              |   X2
*              |   |   UO
*              |   |   |   U1
*              |   |   |   |   U2
*              |   |   |   |   |   Y1
*              |   |   |   |   |   |   Y2
*              |   |   |   |   |   |   |   VN
*              |   |   |   |   |   |   |   |   ER
*              |   |   |   |   |   |   |   |   |   Z2
*              |   |   |   |   |   |   |   |   |   |   Z1
*              |   |   |   |   |   |   |   |   |   |   |   W
*              |   |   |   |   |   |   |   |   |   |   |   |   DD
*              |   |   |   |   |   |   |   |   |   |   |   |   |   VP
*              |   |   |   |   |   |   |   |   |   |   |   |   |   |
.SUBCKT AD734B 10  11  49  50  51  20  21  200 58  31  30  77  54  100
*
EREF 300 0 POLY(2) 100 0 200 0 (0,0.5,0.5)
*
* X INPUT STAGE & POLE AT 40 MHz
*
CINX 10 11 2E-12
IBX1 10 0 DC 200E-9
IBX2 11 0 DC 200E-9
EOSX 12 10 POLY(1) 18 300 5E-3 1
RX1 12 13 25E3
RX2 13 11 25E3
*
GX1 300 14 12 11 1E-6
RX3 14 300 9.9875E5
CX1 14 300 3.9839E-15
VX1 100 15 DC 3.1875
DX1 14 15 DX
VX2 16 200 DC 3.1875
DX2 16 14 DX
*
* X INPUT STAGE COMMON-MODE REJECTION AND ZERO 225 kHz
*
ECMX 17 300 13 300 316.23
RCMX1 17 18 1E6
CCMX 17 18 707.56E-15
RCMX2 18 300 1
*
* Y INPUT STAGE & POLE AT 40 MHz
*
CINY 20 21 2E-12
IBY1 20 0 DC 200E-9
IBY2 21 0 DC 200E-9
EOSY 22 20 POLY(1) 28 300 10E-3 1
RY1 22 23 25E3
RY2 23 21 25E3
*
GY1 300 24 22 21 1E-6
RY3 24 300 9.9875E5
CY1 24 300 3.9839E-15
VY1 100 25 DC 3.1875
DY1 24 25 DX
VY2 26 200 DC 3.1875
DY2 26 24 DX
*
* Y INPUT STAGE COMMON-MODE REJECTION AND ZERO 450 kHz
*
ECMY 27 300 23 300 316.23
RCMY1 27 28 1E6
CCMY 27 28 353.79E-15
RCMY2 28 300 1
*
* Z INPUT STAGE & POLE AT 40 MHz
*
CINZ 30 31 2E-12
IBZ1 30 0 DC 200E-9
IBZ2 31 0 DC 200E-9
EOSZ 32 30 POLY(1) 38 300 10E-3 1
RZ1 32 33 25E3
RZ2 33 31 25E3
*
GZ1 300 34 32 31 1E-6
RZ3 34 300 1E6
CZ1 34 300 3.9789E-15
VZ1 100 35 DC 3.1875
DZ1 34 35 DX
VZ2 36 200 DC 3.1875
DZ2 36 34 DX
*
* Z INPUT STAGE COMMON-MODE REJECTION AND ZERO 225 kHz
*
ECMZ 37 300 33 300 316.23
RCMZ1 37 38 1E6
CCMZ 37 38 707.56E-15
RCMZ2 38 300 1
*
* DENOMINATOR CONTROL & INTERNAL REFERENCE
*
QU1 100 49 50 QNU
RU1 50 51 28E3
*
*VU 100 52
VU 100 52 0
*jg, 9/6/2000: syntax model corrected
QU2 52 0 53 QNU
RU2 53 54 0.001
IU 53 200 DC 10E-6
FU1 300 55 VU 1.01
RU3 55 300 1E6
*
VR1 57 200 DC 8
QR 59 57 58 QPU
RR 57 58 1E5
*VR2 59 200
VR2 59 200 0
*jg, 9/6/2000: syntax model corrected
FU4 300 56 VR2 1
RU4 56 300 28E3
*
EU 60 300 POLY(3) 50 51 55 300 56 300 (0,1.0101,1,1.0101)
RU5 60 300 1E6
*
* 250 MHz MULTIPLIER CORE
*
EXY 46 300 POLY(2) 14 300 24 300 (0,0,0,0,1)
RXY 46 300 1E6
GXY 300 47 46 300 1
GU 47 300 POLY(2) 60 300 47 300 (0,0,0,0,1)
RU 47 300 1E12
CU 47 300 6.65E-9
EW 48 300 POLY(2) 47 300 34 300 (0,1,-1)
RW 48 300 1E6
*
* OUTPUT AMP BUFFER
*
GW 64 300 48 300 1
QW1 100 0 61 QNW
QW2 200 0 62 QPW
QW3 63 62 64 QNW
QW4 65 61 64 QPW
RW1 100 63 1
RW2 65 200 1
IW1 100 62 DC 100E-6
IW2 61 200 DC 100E-6
VW1 100 66 DC 10
DW1 66 63 DX
VW2 67 200 DC 10
DW2 65 67 DX
*
* OUTPUT AMP GAIN STAGE
*
GW1 300 68 100 63 1
GW2 68 300 65 200 1
RW3 68 300 1.38E3
CW1 68 300 19E-9
VW3 100 69 DC 3.8
DW3 68 69 DX
VW4 70 200 DC 3.8
DW4 70 68 DX
*
* TRANSIENT SUPPLY CURRENT COMPENSATION
*
DCC1 80 100 DX
GCC 0 80 48 300 1
DCC2 0 80 DX
DEE1 81 0 DX
GEE 81 0 300 48 1
DEE2 200 81 DX
*
* POLE AT 17.5 MHz
*
GW3 300 71 68 300 1E-6
RW4 71 300 1E6
CW2 71 300 9.0946E-15
*
IDC 100 200 DC 7.0125E-3
RDC1 100 78 3.2E3
RDC2 78 200 3.2E3
DO1 100 72 DX
GO1 72 200 76 71 25E-3
DO2 200 72 DY
DO3 100 73 DX
GO2 73 200 71 76 25E-3
DO4 200 73 DY
VSC1 74 76 DC -0.2
DSC1 71 74 DX
VSC2 76 75 DC -0.2
DSC2 75 71 DX
GO3 76 100 100 71 25E-3
GO4 200 76 71 200 25E-3
RO1 100 76 40
RO2 76 200 40
LO 76 77 100E-9
*
* MODELS USED
*
.MODEL QNU NPN (BF=100 IS=1E-16)
.MODEL QPU PNP (BF=100 IS=1E-16)
.MODEL QNW NPN (BF=1E9 IS=1E-15)
.MODEL QPW PNP (BF=1E9 IS=1E-15)
.MODEL DX D(IS=1E-15)
.MODEL DY D(IS=1E-15 BV=50)
.ENDS AD734B
